US04392882
29.4 g (0.2 mol) of dichloroacetyl chloride were added dropwise to a solution of 22.8 g (0.2 mol) of 2,5-dimethyl-piperazine in 150 ml of acetonitrile at 20° C., while stirring. The reaction mixture was allowed to react subsequently at 20° C. for 5 hours and was then poured into 300 ml of water and the precipitate obtained was filtered off and recrystallized from toluene. 12 g (36% of theory) of N,N'-bis-(dichloroacetyl)-2,5-dimethylpiperazine were obtained in this manner in the form of colorless crystals of melting point 214° C.

reactant | dichloroacetyl chloride | 0.2 mol, 29.4 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 2,5-dimethyl-piperazine | 0.2 mol, 22.8 g | CC1NCC(NC1)C | C6H14N2
reactant | water | 300 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N,N'-bis-(dichloroacetyl)-2,5-dimethylpiperazine | 12 g, 36% | ClC(C(=O)N1C(CN(C(C1)C)C(C(Cl)Cl)=O)C)Cl | C10H14Cl4N2O2
